US06084095
2,4-Diamino-5-cyanopyridine can be cyclized directly to many 4-benzylamipnopyridopyrimidine derivatives by treatment with the benzylamine and formic acid at high temperature. For less nucleophilic amines 2,4-diamino-5-cyanopyridine is converted via ethyl orthoformate/acetic anhydride treatment, followed by cyclization with hydrosulfide ion in anhydrous conditions, to give 7-amino-4-thiono-3H-pyrido[4,3-d]pyrimidine. S-Alkylation and displacement with an appropriate amine gives the desired product. If R4 is not amino, the amine can be acylated, or reductively alkylated. Alternatively 2,4-diamino-5-cyanopyridine can be hydrolysed to the corresponding amide, and this species can be cyclized to 7-amino-4-oxo-3H-pyrido[4,3-d]pyrimidine with orthoformate. Diazotization of the 7-amine and replacement with fluorine allows for introduction of other amine and alkoxide nucleophiles at the end of the synthesis after the C4 substituent has been introduced in the usual manner. Diazotization and replacement of the amine with bromide allows for Stille couplings at the 7-position.

reactant | 2,4-Diamino-5-cyanopyridine | NC1=NC=C(C(=C1)N)C#N | C6H6N4
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | ethyl orthoformate acetic anhydride | C(OCC)([O-])[O-].C(C)(=O)OC(C)=O
reactant | hydrosulfide | [SH-]
solvent | formic acid | C(=O)O | CH2O2
product | 7-amino-4-thiono-3H-pyrido[4,3-d]pyrimidine | NC1=CC=2N=CNC(C2C=N1)=S | C7H6N4S
